US04241078
Example 9--Preparation of 3-(N-chloroacetyl-N-2-methylnaphth-1-ylamino)-gamma-butyrolactone
A 2.4-g (0.020 mol) sample of chloroacetyl chloride was added to a refluxing solution of 5.0 g (0.021 mol) 3-(N-2-methylnaphth-1-ylamino)-gamma-butyrolactone in 100 ml toluene. The reaction mixture was heated under reflux for 30 minutes. Gas was evolved and a white precipitate formed during the 30-minute reflux period. The reaction mixture was cooled, washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give 4.3 g of product, as a white solid, m.p. 121°-122° C. The infrared spectrum of the product showed two strong carbonyl absorption bands at 5.62 microns and 5.88 microns. The product is tabulated in Table C as Compound No. C-1.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-(N-2-methylnaphth-1-ylamino)-gamma-butyrolactone | 0.021 mol, 5.0 g | CC1=C(C2=CC=CC=C2C=C1)NC1CC(=O)OC1 | C15H15NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(N-chloroacetyl-N-2-methylnaphth-1-ylamino)-gamma-butyrolactone | 4.3 g | ClCC(=O)N(C1=C(C=CC2=CC=CC=C12)C)C1CC(=O)OC1 | C17H16ClNO3
